datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])=[C:5]([C:6](=[C:7]([H:14])[H:15])[H:13])[H:12])[H:8].[H:16]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([C:5]([C:6](=[C:7]([H:14])[H:15])[H:13])[H:12])[H:16])[H:8],11.7989
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[C:12]([C:11](=[C:10]([H:16])[H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])([H:4])[H:5],72.7598
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](#[C:6][C:7]=[S:8])[H:9]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6]#[C:5][H:9])=[S:8],98.324
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[C:26]([C:27]([C:28]([H:33])([H:34])[H:35])[C:29]([H:36])([H:37])[H:38])([H:30])([H:31])[H:32]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[C:27]([C:26]([H:30])([H:31])[H:32])([C:28]([H:33])([H:34])[H:35])[C:29]([H:36])([H:37])[H:38],16.7778
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](=[C:20]([C:21]([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27])[H:26])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22](=[C:23]([H:29])[H:30])[H:28])[H:27])[H:9],65.5633
[O:0][O:1].[c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]2[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]2[c:11]1[H:18]>>[O:0]([O:1])[c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]2[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]2[c:11]1[H:18],-2.95093336
[C:0](=[N:1][H:4])([H:2])[H:3].[H:5]>>[C:0](=[N:1])([H:2])[H:3].[H:4][H:5],30.6269
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][H:25]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][O:24][H:25],-6.706952
[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]2[C:4]([H:14])([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]2([H:18])[C:8]([H:19])=[C:9]1[H:20]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]2([H:14])[C:4]([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]2([H:18])[C:8]([H:19])=[C:9]1[H:20],132.2144
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][C:20]([C:19]([H:22])([H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25],38.9112
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](#[C:13][C:14]([H:16])[H:17])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13]#[C:12][H:15])([H:16])[H:17],79.5797
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:35]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:20][H:35],18.706664
[C:0](=[C:1]=[C:2]([C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19])([H:6])[H:7],31.38
[C:0]([C:1]([C:2]([O:3][O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([O:3][O:4][H:8])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7],125.897
[c:0]1[c:1]([H:10])[c:2]([H:11])[c:3]([H:12])[c:4]2[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]12>>[c:0]1([H:15])[c:1]([H:10])[c:2]([H:11])[c:3]([H:12])[c:4]2[c:5]([H:13])[c:6]([H:14])[c:7][c:8]([H:16])[c:9]12,238.287168
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5]>>[C:0]([O:1])([H:3])([H:4])[H:5].[O:2][H:6],176.9832
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](=[C:17]([H:19])[H:20])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:16](=[C:17]([H:19])[H:20])[H:18])[H:9])[H:8],4.56056
